US08877774B2
Step 3. 4-((3-(Azido(phenyl)methyl)phenoxy)methyl)benzoic acid
To a stirred suspension of methyl 4-((3-(azido(phenyl)methyl)phenoxy)-methyl)benzoate (1 g, 2.79 mmol) in methanol (25 mL), was added 2M sodium hydroxide (25 mL). The reaction was allowed to stir at room temperature for 3 days. Tetrahydrofuran (10 mL) was added to the reaction mixture, and the mixture was stirred at 50° C. for 4 hours followed by 16 hours at room temperature. The reaction mixture was acidified with 10% hydrochloric acid, extracted with dichloromethane, dried (sodium sulphate), filtered, and concentrated under reduced pressure to give the title compound (1 g, quantitative).

reactant | methyl 4-((3-(azido(phenyl)methyl)phenoxy)-methyl)benzoate | 2.79 mmol, 1 g | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)C1=CC=CC=C1 | C22H19N3O3
reactant | sodium hydroxide | 2M, 25 mL | [OH-].[Na+]
reactant | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | 4-((3-(Azido(phenyl)methyl)phenoxy)methyl)benzoic acid | 1 g | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)C1=CC=CC=C1 | C21H17N3O3
